US05364560
Production of 1-methylpentyl 4-(4'-octyloxybiphenyl-4-yl-methoxy)benzoate
Lithium aluminium hydride (5.3 mmols) was suspended in 38 ml of tetrahydrofuran, and 3.1 mmols of 4'-octyloxybiphenyl-4-carboxylic acid were slowly added. After stirring at room temperature for 2 hours, the reaction mixture was charged into a large amount of water, and extracted with dichloromethane. After the extract was dried over anhydrous sodium sulfate, the solvent was evaporated to obtain a final product. Since said product showed 1 spot in thin layer chromatography, it was used in the next step without purification. The yield was 95%.

reactant | Lithium aluminium hydride | 5.3 mmols | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4'-octyloxybiphenyl-4-carboxylic acid | 3.1 mmols | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O3
reactant | water | O | H2O
reactant | tetrahydrofuran | 38 ml | O1CCCC1 | C4H8O
product | 1-methylpentyl 4-(4'-octyloxybiphenyl-4-yl-methoxy)benzoate | yield was 95% | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)COC1=CC=C(C(=O)OC(CCCC)C)C=C1 | C34H44O4
